US04163052
9.2 g (0.2 mol) of methylhydrazine were added dropwise to a mixture of 34.4 g (0.2 mol) of pivaloylacetic acid ethyl ester, 10.8 g (0.2 mol) of sodium methylate and 100 ml of methanol at 20° C. When the exothermic reaction had subsided, the reaction mixture was heated for 2 hours under reflux and then concentrated, the residue was taken up in 200 ml of water and this solution was acidified with concentrated hydrochloric acid to a pH of ca. 6. The resulting precipitate was filtered off, dried and recrystallized from isopropanol. 27 g (87% of theory) of 1-methyl-3-tert.-butyl-5-hydroxy-pyrazole were obtained in the form of colorless crystals of melting point 150° C.

reactant | methylhydrazine | 0.2 mol, 9.2 g | CNN | CH6N2
reactant | pivaloylacetic acid ethyl ester | 0.2 mol, 34.4 g | C(C)OC(CC(C(C)(C)C)=O)=O | C9H16O3
reactant | sodium methylate | 0.2 mol, 10.8 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-methyl-3-tert.-butyl-5-hydroxy-pyrazole | 27 g, 87% | CN1N=C(C=C1O)C(C)(C)C | C8H14N2O
